US08222243B2
[5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl) -thiophen-2-yl]-morpholin-4-yl-methanone
Prepared from 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and morpholine by the method described in Example 2 Method B reversing the order of addition such that solid acid chloride was added to a THF solution of triethylamine and piperdine derivative. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried to afford product as a colorless solid (66 mg, 95%). 1H NMR (CDCl3) 2.34 (d, J=1.3, 3 H), 3.71-3.77 (m, 8 H), 7.32 (d, J=4.0, 1 H), 7.43 (d, J=4.0, 1 H). 13C NMR 7.9, ˜48 (br), 67.0, 114.7, 118.7 (q, J=271), 128.0, 129.5, 131.7, 139.5, 157.9, 162.8. 19F NMR −63.2. LC/MS 5.93 min, [M+1]+ 347.

reactant | 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | FC(C1=C(C(=NO1)C1=CC=C(S1)C(=O)O)C)(F)F | C10H6F3NO3S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | THF | C1CCOC1 | C4H8O
reactant | piperdine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | [5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl) -thiophen-2-yl]-morpholin-4-yl-methanone | 66 mg, 95% | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)N1CCOCC1 | C14H13F3N2O3S
